US05571843
2-bromo-5-hydroxyindan-1,3-dione
0.02 mol bromine was added dropwise to a solution of 0.02 mol of 5-hydroxyindan-1,3-dione in 60 ml chloroform. The reaction mixture was agitated at 50° C. for 30 minutes and the precipitate obtained after evaporation of the solvent was recrystallised.

reactant | bromine | 0.02 mol | BrBr | Br2
reactant | 5-hydroxyindan-1,3-dione | 0.02 mol | OC=1C=C2C(CC(C2=CC1)=O)=O | C9H6O3
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-5-hydroxyindan-1,3-dione | BrC1C(C2=CC=C(C=C2C1=O)O)=O | C9H5BrO3
